US06713464B1
(±)-3-(2-Benzyloxy-5-bromophenyl)-3-phenylpropionic Acid Methyl Ester
A suspension consisting of (±)-6-bromo-4-phenylchroman-2-one (85.0 g), anhydrous potassium carbonate (46.7 g), sodium iodide (20.5 g) and benzyl chloride (40.6 g) in methanol (350 ml) and acetone (350 ml) was refluxed for 3 hrs. After evaporation of the solvents the residue was extracted with diethyl ether (2×300 ml) and the extract was washed with water (2×200 ml) and aqueous sodium carbonate. Drying (Na2SO4) and rotoevaporation left 121.8 g (102.1% crude yield) of (±)-3-(2-benzyloxy-5-bromophenyl)-3-phenylpropionic acid methyl ester as a light yellow oil, tlc: (1) 0.77; NMR (CDCl3): 39.22, 40.53, 51.63, 70.16, 113.10, 113.77, 126.46, 126.92, 127.88, 128.08, 128.34, 128.45, 130.31, 130.55, 134.41, 136.44, 142.37, 154.94, 172.08.

reactant | (±)-6-bromo-4-phenylchroman-2-one | 85.0 g | BrC=1C=C2C(CC(OC2=CC1)=O)C1=CC=CC=C1 | C15H11BrO2
reactant | potassium carbonate | 46.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 20.5 g | [I-].[Na+]
reactant | benzyl chloride | 40.6 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | methanol | 350 ml | CO | CH4O
solvent | acetone | 350 ml | CC(=O)C | C3H6O
product | (±)-3-(2-Benzyloxy-5-bromophenyl)-3-phenylpropionic Acid Methyl Ester | COC(CC(C1=CC=CC=C1)C1=C(C=CC(=C1)Br)OCC1=CC=CC=C1)=O | C23H21BrO3
